US09108932B2
Preparation of methyl 4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzoate
To a magnetically stirred solution of methyl 4-(imino(methoxy)methyl)benzoate hydrochloride (1.15 g, 5.00 mmol) in anhydrous pyridine (5 mL) cooled by an ice bath was added (4-(trifluoromethoxy)phenyl)hydrazine hydrochloride (1.14 g, 5.00 mmol) in several portions. After warming to room temperature overnight (18 h), the yellow reaction mixture was diluted with water (25 mL) and washed with CH2CI2 (2×50 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered, and concentrated to give an orange-yellow solid (1.60 g). The solid was dissolved in formic acid (15 mL), warmed to reflux, and stirred at reflux for 8 h. The reaction mixture was cooled to room temperature, diluted with water, and washed with diethyl ether (2×50 mL). The combined diethyl ether washes were washed with water (3×50 mL), washed with brine (50 mL), dried over MgSO4, filtered, and concentrated on a rotary evaporator to give the title compound as a tan solid (1.42 g, 78%). A sample was purified for analytical characterization by flash chromatography using 0-100% (v/v) EtOAc/hexanes as eluent to give the product as an off-white solid: mp 171-172° C.; 1H NMR (400 MHz, CDCI3) δ 8.60 (s, 1H), 8.27 (m, 2H), 8.15 (m, 2H), 7.81 (m, 2H), 7.40 (d, J=8.5 Hz, 2H), 3.95 (s, 3H); 13C NMR (101 MHz, CDCI3) δ 166.76, 162.61, 148.55, 141.77, 135.41, 134.46, 131.03, 130.02, 126.46, 122.44, 121.66, 121.31, 119.10; EIMS m/z 363 [M+].

reactant | methyl 4-(imino(methoxy)methyl)benzoate hydrochloride | 5.00 mmol, 1.15 g | Cl.N=C(C1=CC=C(C(=O)OC)C=C1)OC
reactant | (4-(trifluoromethoxy)phenyl)hydrazine hydrochloride | 5.00 mmol, 1.14 g | Cl.FC(OC1=CC=C(C=C1)NN)(F)F
reactant | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 25 mL | O | H2O
product | methyl 4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzoate | 1.60 g | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C(=O)OC)C=C1)(F)F | C17H12F3N3O3
